US05702641
3-Fluorobromopropane (200.0 g, 1.42 mol) was dissolved in toluene (3), followed by adding to the solution, triphenylphosphine (37.2 g, 1.42 mol), refluxing the mixture for 15 hours, filtering off the resulting product, and suction-drying, to obtain 3-fluoropropyltriphenylphosphine bromide (486 g, 1.21 mol). Yield: 85.2%.

reactant | 3-Fluorobromopropane | 1.42 mol, 200.0 g | FCCCBr | C3H6BrF
reactant | triphenylphosphine | 1.42 mol, 37.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-fluoropropyltriphenylphosphine bromide | 1.21 mol, 486 g, Yield: 85.2% | [Br-].FCCCP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H22FP.BrH/c22-17-10-18-23(19-11-4-1-5-12-19,20-13-6-2-7-14-20)21-15-8-3-9-16-21;/h1-9,11-16,23H,10,17-18H2;1H/p-1
